US05817877
The method described in this example is representative of method "A". Into a screw-capped test tube were weighed 8.6 mg (0.015 mmol) Pd(dba)2, 12.8 mg (0.023 mmol) DPPF, and 44.3 mg (0.462 mmol) sodium t-butoxide (NaO-t-Bu). The solid materials were suspended in 8 ml of toluene. 2-Naphthyltriflate (85.0 mg, 0.308 mmol) was dissolved in 1 ml of toluene and added to the test tube. The test tube was sealed with a cap containing a polytetrafluoroethylene (PTFE) septum and removed from the dry box. Piperidine (40.0 μl, 0.462 mmol) was added to the test tube by syringe. The reaction mixture was heated at 105° C. for 5 hours. Thin layer chromatography (TLC) of the reaction mixture indicated complete consumption of the naphthyltriflate. The reaction mixture was cooled to room temperature, and the volatile materials were removed by rotary evaporation. Sublimation (120° C., 0.1 torr) of the resulting residue afforded N-(2-naphthyl)piperidine as a white solid (50.0 mg, 77% yield).

reactant | sodium t-butoxide | 0.462 mmol, 44.3 mg | CC(C)([O-])C.[Na+]
reactant | 2-Naphthyltriflate | 0.308 mmol, 85.0 mg | C1=C(C=CC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F | C11H7F3O3S
reactant | polytetrafluoroethylene | FC(C(F)(F)[*:1])(F)[*:2]
reactant | Piperidine | 0.462 mmol, 40.0 μl | N1CCCCC1 | C5H11N
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | 0.015 mmol, 8.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | DPPF | 0.023 mmol, 12.8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | N-(2-naphthyl)piperidine | 50.0 mg, 77% yield | C1=C(C=CC2=CC=CC=C12)N1CCCCC1 | C15H17N
